Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Gait disturbance
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ right-handed female with a past
medical history of PMR on prednisone, depression, anxiety
hyperlipidemia, and sleep apnea who presents for evaluation of
altered gait.

7:15 ___ ___ walking a block to the theater and felt like she
was "walking like a drunk person".  Describes an incoordination
of her legs, or like " one leg is shorter than the other" rather
than an overt weakness.  She watched a full plane did not get up
during it and after the play noted she still felt unsteady
walking bed that night woke up the next morning and continued to
feel like her gait was unsteady although it was improved.  She
had her husband watch her gait, and he reported that it seemed
normal to him.  However doing to ongoing symptoms he presented 
to
the ED. while walking to the ED from the parking garage, her
husband did notice her gait seemed off for 5 to 10 seconds.  She
reports she is been having thoracic back pain for the past 2
days, described as very fleeting that she did not even consider
taking an analgesic.  Denies loss of bowel or bladder function,
denies saddle anesthesia, denies headache, vertigo,
lightheadedness, dysarthria, dysphasia, double vision, blurry
vision, difficulties producing or comprehending speech.

Since being in the ED she is felt her gait has been normal.  She
denies any recent travels changes in medications or recent
illnesses. Was on ASA a but d/c'd a few months ago bc no
indications.

 
Past Medical History:
Depression
anxiety
PMR- diagnosed end of ___, prednisone 20 mg -> 15 mg now for
GERD
MITRAL VALVE PROLAPSE                                           
HEARING LOSS                                                    
OSTEOPENIA                                                      
HYPERLIPIDEMIA                                                  
SLEEP APNEA                                                     
HST ___, weight 133 lb, AHI4% 7.7/hr, worse when supine, absent
on sides, min  O2 corrected 83%.                    
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother                ALZHEIMER'S DISEASE                       

Father                CORONARY ARTERY                           
                      DISEASE          
 
Physical Exam:
ADMISSION EXAMINATION
=====================
T 97.4
HR 55
BP 107/61
RR 16 100% RA

General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Decreased bulk and normal tone throughout. No pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: 
LT: decreased on right arm 80% normal throughout
Pinprick: 80-85% normal right arm, and small patch about medial
left ankle
Proprioception intact
No extinction to DSS. ___ absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2
*brisk throughout
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow gait that is steady, but states
she feels she is veering to the right

DISCHARGE EXAMINATION
=====================
___ 0323 Temp: 97.7 PO BP: 117/70 HR: 64 RR: 16 O2 sat: 96%
O2 delivery: Ra 

General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2 mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch except R cheek (V2) 
80%
of L. Dull to pinprick on R cheek. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub on L but not on R. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Decreased bulk and normal tone throughout. No pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: 
LT: decreased on right arm and leg, 80% normal throughout except
on feet (90% normal) 
Pinprick: 80-85% normal right arm, right leg, lower left leg
particularly small patch about medial left ankle. Toes and feet
are similarly sharp. 
Proprioception intact
Vibration slightly diminished on left but roughly 10 sec at 
toes.

No extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2
*brisk throughout
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow gait that is steady, but states
she feels she is veering to the right. Unsteady with tandem 
gait.
 
Pertinent Results:
___ 07:20AM BLOOD WBC-8.6 RBC-4.27 Hgb-12.0 Hct-38.6 MCV-90 
MCH-28.1 MCHC-31.1* RDW-14.0 RDWSD-46.7* Plt ___
___ 07:20AM BLOOD ___ PTT-28.7 ___
___ 07:20AM BLOOD Glucose-73 UreaN-23* Creat-0.9 Na-144 
K-4.2 Cl-104 HCO3-28 AnGap-12
___ 07:20AM BLOOD Calcium-9.5 Phos-4.4 Mg-2.3
___ 07:20PM BLOOD ALT-14 AST-14 CK(CPK)-22* AlkPhos-76 
TotBili-0.4
___ 10:50AM BLOOD Lipase-52
___ 07:20PM BLOOD %HbA1c-5.6 eAG-114
___ 07:20PM BLOOD Triglyc-112 HDL-86 CHOL/HD-2.5 
LDLcalc-110
___ 07:20PM BLOOD TSH-0.44
___ 10:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:20AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:20AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM*
___ 11:20AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM*
___ 11:20AM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:20AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 11:20 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:37 ___ CTA HEAD AND CTA NECK 
1. Unremarkable head CT.  No evidence of an acute stroke, 
hemorrhage, 
intracranial mass. 
2. Unremarkable CT of the head without evidence of 
stenosis,occlusion,or 
aneurysm. 
3. Patent bilateral cervical carotid and vertebral arteries 
without evidence of stenosis, occlusion, or dissection. 

___ 3:28 ___ STROKE PROTOCOL (BRAIN W/O) 
1. No evidence for acute infarction or other intracranial 
abnormalities. 
2. Small chronic infarct in the right superior frontal gyrus. 
3. Persistent fluid in the left sphenoid sinus.  Please 
correlate clinically with any acute inflammatory symptoms. 
4. Opacification of a a right middle ethmoid air cell, 
persistent since ___, with decreased extent of previously seen 
bilateral ethmoid 
sinus disease compared to ___. 

___ 11:24 AM CT HEAD W/O CONTRAST 
1. No acute intracranial abnormality.  Specifically, no 
intracranial 
hemorrhage. 
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with history 
notable for PMR (on prednisone), depression, anxiety, HLD, and 
OSA presenting with one day of gait disturbance without vertigo 
or focal weakness. MRI did not reveal evidence of intercurrent 
infarct. Examination was notable for subtle decrease to light 
touch and pinprick sensation of the right hemibody of unclear 
etiology as well as a subtle gradient to pinprick in the distal 
lower extremities, the latter potentially indicative of an 
underlying peripheral neuropathy, though not clearly of 
sufficient severity to account for gait disturbance. Gait 
subjectively improved (without significant objective 
disturbance) without intervention during admission.

TRANSITIONAL ISSUES
1. Outpatient Neurology follow-up for possible neuropathy.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. Escitalopram Oxalate 15 mg PO DAILY 
4. TraZODone 75 mg PO QHS 
5. Aspirin EC 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Escitalopram Oxalate 15 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  PredniSONE 20 mg PO DAILY  
6.  TraZODone 75 mg PO QHS  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient gait disturbance
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation one day of gait 
disturbance. An MRI of your brain did not show signs of a stroke 
to account for your symptoms, and your symptoms improved 
slightly during your hospital stay. The cause of your gait 
changes was not clear, although your examination did show subtle 
signs of a neuropathy that can continue to be followed up after 
you leave the hospital.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___